US07964607B2
(b) 5-amino-1-(4,4-difluorocyclohexyl)-1H-pyrazole-4-carbonitrile
Following the procedure for the preparation of 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carbonitrile but substituting 1-(4,4-difluorocyclohexyl)hydrazine provided the title compound. 400 MHz 1H NMR (CDCl3) δ 7.5 (m, 1H), 3.90 (m, 1H), 2.40-1.00 (m, 8H).

reactant | 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C1=C(C=CC=C1)OC)C#N | C11H10N4O
reactant | 1-(4,4-difluorocyclohexyl)hydrazine | FC1(CCC(CC1)NN)F | C6H12F2N2
product | 5-amino-1-(4,4-difluorocyclohexyl)-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C1CCC(CC1)(F)F)C#N | C10H12F2N4
